US07902181B2
b) 4-Iodo-(L)-phenylalaninamide
N-(tert-Butoxycarbonyl)-4-iodo-(L)-phenylalaninamide (4.24 g) was dissolved in DCM (20 mL) and to the solution was added TFA (20 mL). The reaction mixture was stirred, at room temperature, for 0.5 h then concentrated to dryness under reduced pressure. The crude material obtained was loaded onto an SCX cartridge. Non-basic impurities were washed off with a 1:1 mixture of DCM and methanol, then the cartridge was eluted with 10% ammonia in methanol. Eluent from the latter was concentrated to dryness to give the free base of the sub-title compound (3 g) as a white solid.

reactant | N-(tert-Butoxycarbonyl)-4-iodo-(L)-phenylalaninamide | 4.24 g | C(C)(C)(C)OC(=O)NC([C@@H](N)CC1=CC=C(C=C1)I)=O | C14H19IN2O3
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Iodo-(L)-phenylalaninamide | 3 g | IC1=CC=C(C[C@H](N)C(=O)N)C=C1 | C9H11IN2O
